US09340546B2
To a solution of 2-amino-6-chloro-N-[4-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)-3-pyridyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide (prepared according to a procedure similar to Example 1) (420 mg, 0.9771 mmol) in tetrahydrofuran (10 mL) was added HCl (4.886 mL of 2 M, 9.771 mmol). The resulting mixture was stirred at room temperature overnight. The resulting reaction mixture was diluted with water (100 mL), made basic with 2.5 N aqueous sodium hydroxide, and extracted three times with dichloromethane (100 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to give 2-amino-6-chloro-N-(4-(4-oxopiperidin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide as a pale yellow solid which was used without further purification. MS (ES+) 386.1.

reactant | 2-amino-6-chloro-N-[4-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)-3-pyridyl]pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)Cl)=C1C(=O)NC=1C=NC=CC1N1CCC2(OCCO2)CC1 | C19H20ClN7O3
reactant | HCl | 9.771 mmol, 2 M, 4.886 mL | Cl | ClH
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 2-amino-6-chloro-N-(4-(4-oxopiperidin-1-yl)pyridin-3-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)Cl)=C1C(=O)NC=1C=NC=CC1N1CCC(CC1)=O | C17H16ClN7O2
